US09260572B2
In the presence of 0.0012 eq. of [1,3-bis(diphenylphosphine)propane]dichloronickel (II) (Ni(dppp)Cl2) catalyst, 1.3 eq. of hexylmagnesium bromide (Hexyl-MgBr) is added to 3-bromothiophene monomer to obtain 3-hexylthiophene, and then 2 eq. of N-bromosuccimide (NBS) is further added thereto to obtain 2,5-dibromo-3-hexylthiophene monomer.

reactant | hexylmagnesium bromide | 1.3 eq. | C(CCCCC)[Mg]Br
reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
product | 3-hexylthiophene | C(CCCCC)C1=CSC=C1 | C10H16S
